US04477618
Preparation of 1,2-butanediyl dimethanesulfonate
Into a one liter, four-necked round bottom flask equipped with stirrer, condenser, thermometer, and addition funnel, 57.0 parts of methanesulfonyl chloride, 22.5 parts of 1,2-butanediol and 57.0 parts of methylene chloride were mixed under a nitrogen blanket and cooled to 0° C. using a dry ice-acetone bath. To this 50.5 parts of triethylamine was added over one hour. The reaction was stirred at 0° C. for an additional three hours and allowed to stand for 18 hours at 0° C. The mixture was vacuum filtered and then washed successively with chilled dilute sulfuric acid (twice with 200 part-portions), dilute sodium bicarbonate (three times with 200 part-portions), and water (twice with 200 part-portions), dried over sodium sulfate, filtered, and the solvent removed in vacuo at 35° C. to give the product as a pale yellow liquid.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,2-butanediol | C(C(CC)O)O | C4H10O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,2-butanediyl dimethanesulfonate | CS(=O)(=O)OCC(CC)OS(=O)(=O)C | C6H14O6S2
